US04963553
A mixture of 4.0 g of 3-dimethylamino-2-ethyl-3'-trifluoromethylacrylophenone and 1.5 g of 3-amino-4-cyanopyrazole in 75 ml of glacial acetic acid was refluxed for two hours to give 6-ethyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, m.p. 135°-137° C.

reactant | 3-dimethylamino-2-ethyl-3'-trifluoromethylacrylophenone | 4.0 g | CN(C=C(C(=O)C1=CC(=CC=C1)C(F)(F)F)CC)C | C14H16F3NO
reactant | 3-amino-4-cyanopyrazole | 1.5 g | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 6-ethyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | C(C)C=1C=NC=2N(C1C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C16H11F3N4
